US04530997
A solution of 10.0 g. of 3-amino-2,1-benzisothiazole in 100 g. of concentrated H2SO4 was heated at 50°-55° C. for one-half hour, then cooled and added to 500 ml. of cold acetone. The product was removed by filtration and then reprecipitated from bicarbonate solution by addition of sufficient acetic acid to give a pH of 4.75-4.80. 8.5 Grams of purified 3-amino-2,1-benzisothiazole-7-sulfonic acid product was obtained.

reactant | 3-amino-2,1-benzisothiazole | NC=1SN=C2C1C=CC=C2 | C7H6N2S
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | acetone | CC(=O)C | C3H6O
product | 3-amino-2,1-benzisothiazole-7-sulfonic acid | NC=1SN=C2C1C=CC=C2S(=O)(=O)O | C7H6N2O3S2
